US08530648B2
a) 1-tert-butyl 4-methyl indoline-1,4-dicarboxylate
To a stirred solution of methyl indoline-4-carboxylate [155135-61-8] (1.2 g, 6.78 mmol) in acetonitrile (60 mL), Boc2O (1.87 mL, 8.14 mmol) and DMAP (166 mg, 1.36 mmol) were added and stirred at rt for 16 h. The reaction mixture was concentrated under reduced pressure. Water (30 mL) was added and extracted with ethyl acetate (2×30 mL). The combined organic layers were washed with brine and dried over anhydrous Na2SO4, filtered and evaporated under reduced pressure. The crude product was purified flash column chromatography (eluent: 2% ethyl acetate in hexane) to yield the title compound (430 mg, 23%). [LCMS RtE=1.86 min, [M-Boc+H]+=178.1; TLC Rf=0.64 (ethyl acetate/hexane 20:80)].

reactant | methyl indoline-4-carboxylate | 6.78 mmol, 1.2 g | N1CCC=2C(=CC=CC12)C(=O)OC | C10H11NO2
reactant | Boc2O | 8.14 mmol, 1.87 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
catalyst | DMAP | 1.36 mmol, 166 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-tert-butyl 4-methyl indoline-1,4-dicarboxylate | 430 mg, 23% | N1(CCC=2C(=CC=CC12)C(=O)OC)C(=O)OC(C)(C)C | C15H19NO4
